US04766128
3-(2,3α-Dihydro-6-methyl-13-nitro-8β-ergolinyl)-1,1-diethylurea.
3-(2,3α-Dihydro-13-nitro-6-n-propyl-8α-ergolinyl)-1,1-diethylurea. Yield: 50%. [α]D =-156° (0.5% in CHCl3).

reactant | 3-(2,3α-Dihydro-13-nitro-6-n-propyl-8α-ergolinyl)-1,1-diethylurea | [N+](=O)([O-])C=1C=C2NC[C@@H]3C[C@H]4N(C[C@H](C[C@@H]4C(C1)=C32)NC(N(CC)CC)=O)CCC | C22H33N5O3
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3-(2,3α-Dihydro-6-methyl-13-nitro-8β-ergolinyl)-1,1-diethylurea | Yield: 50% | CN1C[C@@H](C[C@@H]2C=3C=C(C=C4NC[C@H](C[C@@H]12)C34)[N+](=O)[O-])NC(N(CC)CC)=O | C20H29N5O3
